US09126993B2
To a stirred and cooled (0° C.) solution of ethyl 5-bromothiophene-3-carboxylate (13.30 g, 56.57 mmol) in THF (100 mL) was added a solution of methylmagnesium bromide in diethyl ether [3.0 M] (55.0 mL, 165 mmol), dropwise over 20 minutes. After 2 hours, the reaction solution was concentrated. The residue was taken up in aqueous NH4Cl (200 mL) and extracted with ethyl acetate (2×100 mL). The combined extracts were dried (Na2SO4) and concentrated. The resulting amber oil was purified by flash chromatography using a hexane/ethyl acetate gradient to afford 2-(5-bromothiophen-3-yl)propan-2-ol as a pale amber oil (8.05 g, 64%).

reactant | ethyl 5-bromothiophene-3-carboxylate | 56.57 mmol, 13.30 g | BrC1=CC(=CS1)C(=O)OCC | C7H7BrO2S
reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethyl ether | 165 mmol, 3.0 M, 55.0 mL | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(5-bromothiophen-3-yl)propan-2-ol | 8.05 g, 64% | BrC1=CC(=CS1)C(C)(C)O | C7H9BrOS
